US04439519
Synthesis of 4-Dimethylaminobenzohydroxamic acid
7.4 g of hydroxylamine hydrochloride was dissolved in 200 ml of water to which was added dropwise 106 ml of 1 N aqueous solution of sodium hydroxide while cooling. The resulting mixture was added with stirring to 300 ml of a tetrahydrofuran solution containing 9.0 g of 4-dimethylaminobenzoic acid methyl ester dissolved at room temperature. After stirring for 8 hours, 5 ml of 1 N aqueous solution of sodium hydroxide was added thereto and the mixture was further stirred for 3 days. After adjusting the pH of the resulting mixture between 4 and 5 by adding a diluted aqueous hydrochloric acid solution, the mixture was extracted with ethyl acetate and the extract was dried with sodium sulfate and concentrated. The resulting crystals were recrystallized from acetonitrile to obtain 4 g of the desired compound having a melting point of 162° to 163° C. The structure of the compound was confirmed using mass spectrum and NMR spectrum, etc.

reactant | hydroxylamine hydrochloride | 7.4 g | Cl.NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-dimethylaminobenzoic acid methyl ester | 9.0 g | COC(C1=CC=C(C=C1)N(C)C)=O | C10H13NO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 4-Dimethylaminobenzohydroxamic acid | 4 g | CN(C1=CC=C(C(=O)NO)C=C1)C | C9H12N2O2
